US07598423B2
Synthesis of 1-(2-hydroxy-4-{4-[3-(2H-tetrazol-5-yl)-benzyl]-benzyloxy}-3-trifluoromethyl-phenyl)-ethanone
The title compound is prepared essentially as described for 1-(2-hydroxy-4-{4-[3-(2H-tetrazol-5-yl)-phenoxy]-benzyloxy}-3-trifluoromethyl-phenyl)-ethanone employing 3-[4-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-benzyl]-benzonitrile (58%). LC-MS (m/e): 467 (M−1); 1H NMR (DMSO-d6) δ 13.79 (1H, s), 8.21 (1H, d), 7.80-8.00 (2H, m), 7.30-7.60 (6H, m), 6.92 (1H, d), 5.35 (2H, s), 4.08 (2H, s), 2.65 (3H, s).

reactant | 1-(2-hydroxy-4-{4-[3-(2H-tetrazol-5-yl)-phenoxy]-benzyloxy}-3-trifluoromethyl-phenyl)-ethanone | OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC=C(C=C1)OC1=CC(=CC=C1)C=1N=NNN1)C(C)=O | C23H17F3N4O4
reactant | 3-[4-(4-acetyl-3-hydroxy-2-trifluoromethyl-phenoxymethyl)-benzyl]-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(CC=3C=C(C#N)C=CC3)C=C2)C=C1)C(F)(F)F)O | C24H18F3NO3
product | 1-(2-hydroxy-4-{4-[3-(2H-tetrazol-5-yl)-benzyl]-benzyloxy}-3-trifluoromethyl-phenyl)-ethanone | OC1=C(C=CC(=C1C(F)(F)F)OCC1=CC=C(C=C1)CC1=CC(=CC=C1)C=1N=NNN1)C(C)=O | C24H19F3N4O3
